US03998780
If, analogously to the above example, 2,5-dichloroaniline is condensed with 1,5-dichloroanthraquinone in the presence of a mixture of 0.5 part of copper powder and 0.5 part of copper-I chloride as the catalyst, instead of the copper-I iodide/picoline complex, only 12 parts of 1,5-bis-(2,5-dichloroanilino)anthraquinone are obtained, corresponding to a yield of only 23%.

reactant | 2,5-dichloroaniline | ClC1=C(N)C=C(C=C1)Cl | C6H5Cl2N
reactant | 1,5-dichloroanthraquinone | ClC1=CC=CC=2C(C3=C(C=CC=C3C(C12)=O)Cl)=O | C14H6Cl2O2
catalyst | copper | [Cu] | Cu
product | 1,5-bis-(2,5-dichloroanilino)anthraquinone | ClC1=C(NC2=CC=CC=3C(C4=C(C=CC=C4C(C23)=O)NC2=C(C=CC(=C2)Cl)Cl)=O)C=C(C=C1)Cl | C26H14Cl4N2O2
